US08461189B2
Pyridin-2-ylmethyl(4-{[(3-amino-6-phenylpyridin-2-yl)amino]carbonyl}benzyl)carbamate
TFA (1 mL, 12.98 mmol) was added to a flask containing pyridin-2-ylmethyl{4-[({3-[(tert-butoxycarbonyl)amino]-6-phenylpyridin-2-yl}amino)carbonyl]benzyl}carbamate (100 mg, 0.181 mmol) in dichloromethane (2 ml) and the mixture stirred at room temperature for 1 hour. The reaction was quenched by the addition of saturated sodium bicarbonate until bubbling stopped. The aqueous layer was extracted (3×) with EtOAc and dried over sodium sulfate. The organic product was purified using HPLC. LCMS of the major UV absorbant fraction indicated the presence of the desired product. 1H NMR (DMSO-d6) δ: 10.36 (s, 1H), 8.51 (d, J=4 Hz, 1H), 7.96-8.05 (m, 3H), 7.88-7.94 (m, 2H), 7.76-7.82 (m, 1H), 7.65 (d, J=8.3 Hz 1H), 7.32-7.45 (m, 5H), 7.18-7.32 (m, 3H), 5.12 (s, 2H), 5.09 (s, 2H), 4.28 (d, J=6.2 Hz, 2H) MS: cal'd 454 (MH+), exp 454 (MH+). The in vitro HDAC1 IC50 of this compound is 35 nM. The IC50 of this compound in HCT-116 cells is 560 nM. Percent Cyp inhibitions at 10 μM are 27, 47 and 24%, for Cyp3A4, 2C9, and 2D6, respectively. The inflection point for MK-499 binding is 2535 μM.

reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | pyridin-2-ylmethyl{4-[({3-[(tert-butoxycarbonyl)amino]-6-phenylpyridin-2-yl}amino)carbonyl]benzyl}carbamate | 0.181 mmol, 100 mg | N1=C(C=CC=C1)COC(NCC1=CC=C(C=C1)C(=O)NC1=NC(=CC=C1NC(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C31H31N5O5
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Pyridin-2-ylmethyl(4-{[(3-amino-6-phenylpyridin-2-yl)amino]carbonyl}benzyl)carbamate | N1=C(C=CC=C1)COC(NCC1=CC=C(C=C1)C(=O)NC1=NC(=CC=C1N)C1=CC=CC=C1)=O | C26H23N5O3
